US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (278 mg, 1.2 mmol) and 6-trifluoromethyl-indol-1-ylamine (200 mg, 1 mmol) in DMF (5 mL) is stirred at 50° C. for 0.5 h. The mixture is treated with DMTMM (290 mg, 1.05 mmol) and stirred at 50° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with Et2O/heptane overnight. The precipitate is collected by filtration, washed with H2O (50 mL) and heptane (50 mL), and dried in vacuo to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (6-trifluoromethyl-indol-1-yl)-amide (180 mg, 44%). MS: 415 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 12.09 (s, NH, 1H), 9.33 (s, 1H), 8.35 (d, 1H), 8.20 (d, 1H), 7.90 (s, 1H), 7.79 (m, 2H), 7.65 (m, 1H), 7.46 (m, 2H), 6.74 (d, 1H), 2.79 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.2 mmol, 278 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 6-trifluoromethyl-indol-1-ylamine | 1 mmol, 200 mg | FC(C1=CC=C2C=CN(C2=C1)N)(F)F | C9H7F3N2
reactant | DMTMM | 1.05 mmol, 290 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (6-trifluoromethyl-indol-1-yl)-amide | 180 mg, 44% | FC(C1=CC=C2C=CN(C2=C1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)(F)F | C21H14F4N4O
